US07714009B2
1-Methyl-7-(propylamino)-1,3-dihydro-2H-benzimidazol-2-one
To 0.87 g (5.3 mmol) of 7-amino-1-methyl-1,3-dihydro-2H-benzoimidazol-2-one in 50 mL of methanol was added 1.94 mL (26.7 mmol) of propionaldehyde and 1.0 g (16 mmol) of sodium cyanoborohydride. The mixture was stirred at room temperature for 5 h and concentrated in vacuo. The crude solid was partitioned between water and ethyl acetate, the biphasic mixture was filtered to remove particulates and the layers were separated. The organic layer was washed with brine, dried over sodium sulfate, filtered, concentrated and purified by flash chromatography eluting with a 50% ethyl acetate/hexanes mixture to give 0.69 g (63%) of the title compound as a cream colored powder.

reactant | 7-amino-1-methyl-1,3-dihydro-2H-benzoimidazol-2-one | 5.3 mmol, 0.87 g | NC1=CC=CC2=C1N(C(N2)=O)C | C8H9N3O
reactant | propionaldehyde | 26.7 mmol, 1.94 mL | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | 16 mmol, 1.0 g | C(#N)[BH3-].[Na+]
solvent | methanol | 50 mL | CO | CH4O
product | 1-Methyl-7-(propylamino)-1,3-dihydro-2H-benzimidazol-2-one | 0.69 g, 63% | CN1C(NC2=C1C(=CC=C2)NCCC)=O | C11H15N3O
